Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3](=[C:4][H:5])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:6]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-5.088867399140001
[H:1][C:2]([H:3])([H:4])[C:5]1=[C:6][O:7][C:8][C:9]1([H:10])[H:11]>>[H:1][C:2]([H:3])([H:4])[C:9]#[C:8][O:7][C:6]=[C:5]([H:10])[H:11],-0.15096097337
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]([H:3])[O:4][C:5]=[C:6]([H:7])[H:8].[H:9],3.26255931797
[C:2](#[C:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10].[O:1]>>[O:1]=[C:2]([C:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10],-3.65358744811
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])=[C:11]([H:12])[H:13],1.70739776067
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:8][C:9]=[C:10]([H:11])[H:12].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]=[C:10]([H:11])[H:12],-4.36722604455
[H:1][C:2]=[C:3]([O:4][H:5])[C:6](=[C:7][H:8])[O:9][H:10]>>[C:6](#[C:7][H:8])[O:9][H:10].[H:1][C:2]#[C:3][O:4][H:5],-0.55758664626
[H:4].[O:1][O:2][C:3][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.943423620919999
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10][H:11]>>[C:6]([H:7])[C:8]([H:9])=[C:10][H:11].[H:1][C:2][O:3][C:4][H:5],7.50934604345
[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.00396594287
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12]>>[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12].[O:1],8.07449870071
[H:1][C:2][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-3.93851593453
[C:3]([H:4])([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-2.91694727251
[C:1]#[C:2][C:8]([H:9])([H:10])[H:11].[C:3]([H:4])[O:5][C:6][H:7]>>[C:1]=[C:2]([C:3]([H:4])[O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11],-4.40332205886
[C:14]([H:15])[H:16].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],-5.25539732
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7],1.06359745329
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.94154069246
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:11].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])=[C:9][H:10],4.92949832616
[H:1][C:2]([H:3])([H:4])[C:5]1[C:6]([H:7])([H:8])[O:9][C@@:10]1([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C@@:10]([O:9])([H:11])[C:12]([H:13])([H:14])[H:15],0.05699858137
[H:10].[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]=[C:8](\[H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.09400615919
[H:1][C:2][O:3]/[C:4](=[C:5]\[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2][O:3][C:4](=[C:5]=[O:6])[C:8]([H:9])([H:10])[H:11].[H:7],1.27506734559
[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[C:8]=[C:9]([H:10])[H:11].[H:1][O:2][C:3][O:4][C:5]([H:6])[H:7],3.59141966046
[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7]>>[H:1][C:2]([H:3])([H:4])[C:5]1[C:6][O:7]1,2.18206033762
[H:12].[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.582346789880001
[C:12]([H:13])([H:14])[H:15].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.05761564032
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15].[H:4],4.015368395109999
[C:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1]>>[H:1][C:2]#[C:3][C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-3.83637120212
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:7],1.82090124533
